US07312225B2
3a) Production of N-[3-(5-Bromo-2-chloro-pyrimidin-4-yloxy)-propyl]-3-nitro-benzenesulfonamide
A solution of 272 mg (1.05 mmol) of N-(3-hydroxy-propyl)-3-nitro-benzenesulfonamid in 5 ml DMF is mixed with 49 mg of a 60% dispersion of sodium hydride in mineral oil (1.22 mmol) and stirred for 5 minutes at room temperature. It is mixed with a solution of 220 mg (0.97 mmol) of 5-bromo-2,4-dichloro-pyrimidine in 5 ml of DMF and stirred for another 2 hours. The batch is mixed with saturated NaCl solution and then extracted with ethyl acetate (2×). The combined organic phases are washed with NaCl solution, dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate 1:1, Flashmaster II). 75 mg (0.16 mmol, corresponding to 16% of theory) of the product is obtained.

reactant | N-(3-hydroxy-propyl)-3-nitro-benzenesulfonamid | 1.05 mmol, 272 mg | OCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H12N2O5S
reactant | sodium hydride | [H-].[Na+]
reactant | 5-bromo-2,4-dichloro-pyrimidine | 0.97 mmol, 220 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[3-(5-Bromo-2-chloro-pyrimidin-4-yloxy)-propyl]-3-nitro-benzenesulfonamide | BrC=1C(=NC(=NC1)Cl)OCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H12BrClN4O5S
